data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1C(C)C.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1C(C)C.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1C(C)C", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CCC2C(C)C.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CCC2C(C)C", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CCC2C(C)C)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(C)C(C)(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3OC(C)C(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3OC(C)C(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(C)C2(C)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(C)C2(C)O3)cc1", "products": "CC1OC2OC1(C)C1C(=O)C21"}, {"reactants": "CC1OC2OC1(C)C1C(=O)C21.[O-]C", "products": "COC1([O-])C2C3OC(C)C(C)(O3)C21"}, {"reactants": "COC1([O-])C2C3OC(C)C(C)(O3)C21.CO", "products": "COC(=O)C1CC2(C)OC1OC2C"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1c(F)cccc1Cl)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1c(F)cccc1Cl)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1c(F)cccc1Cl)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1c(F)cccc1Cl)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1c(F)cccc1Cl)C2(C)C", "products": "C[C+]1C2(c3c(F)cccc3Cl)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3c(F)cccc3Cl)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2c(F)cccc2Cl)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2c(F)cccc2Cl)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2c(F)cccc2Cl)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2c(F)cccc2Cl)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2c(F)cccc2Cl)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2c(F)cccc2Cl)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3c(F)cccc3Cl)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3c(F)cccc3Cl)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3c(F)cccc3Cl)C1(C)OC2=O.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1OC.C=O", "products": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1OC"}, {"reactants": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1OC", "products": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1OC"}, {"reactants": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1OC", "products": "C=[N+](O)[C@@H]1C(OC)[C@H](COC)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(OC)[C@H](COC)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(OC)[C@H](COC)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(OC)[C@H](COC)C[C@H]2CC=CC[C@H]21", "products": "COC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1OC"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Brc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(Br)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(Br)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(Br)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(Br)c1", "products": "O=C1CCN2C[C@H](OCc3cccc(Br)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1c(C)cc(NN=CCc2ccccc2)cc1Cl.Cl[Zn]Cl", "products": "COc1c(C)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl"}, {"reactants": "COc1c(C)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COc1c(C)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl.[H+]"}, {"reactants": "COc1c(C)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2Cl)C(=N)C=C1", "products": "COc1c(C)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl"}, {"reactants": "COc1c(C)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl", "products": "COc1c(C)cc2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1c(C)cc2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1c(C)cc2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1c(C)cc2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1c(C)cc2c(c1Cl)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1c(C)cc2c(c1Cl)C(c1ccccc1)C=[NH+]2", "products": "COc1c(C)cc2[nH]cc(-c3ccccc3)c2c1Cl.[H+]"}]}
